US08809012B2
Step 6: Synthesis of tert-butyldimethyl((4-propylbenzyl)oxy)silane
tert-butyldimethyl((4-(prop-1-yn-1-yl)benzyl)oxy)silane (252 mg, 0.968 mmol) was dissolved in 20 mL of ethyl acetate, and then passed through H-Cube apparatus equipped with 10% Pd/C catridge under 20 bar of hydrogen pressure at a speed of 0.5 mL/min. The solution thus passed was concentrated by distillation under reduced pressure to obtain 251 mg (0.949 mmol, 98%) of the desired compound.

reactant | tert-butyldimethyl((4-(prop-1-yn-1-yl)benzyl)oxy)silane | 0.968 mmol, 252 mg | C(C)(C)(C)[Si](OCC1=CC=C(C=C1)C#CC)(C)C | C16H24OSi
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | tert-butyldimethyl((4-propylbenzyl)oxy)silane | 0.949 mmol, 251 mg, 98% | C(C)(C)(C)[Si](OCC1=CC=C(C=C1)CCC)(C)C | C16H28OSi
